US09388189B2
(S)-2-(1-((5-(4-Fluoro-2-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(4-Fluoro-2-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (21 mg, 0.03 mmol) was treated with trifluoroacetic acid (420 μl, 5.45 mmol) and a solution of ammonia (7N in methanol, 420 μl, 2.94 mmol) according to the method described in Example 27 to give 10 mg (59% yield) of the title compound as a white solid. Purity 98%.

reactant | (S)-2-(1-((5-(4-Fluoro-2-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.03 mmol, 21 mg | FC1=CC(=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)OC | C34H38FN7O3Si
reactant | trifluoroacetic acid | 5.45 mmol, 420 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 2.94 mmol, 7N, 420 μl | N | H3N
product | (S)-2-(1-((5-(4-Fluoro-2-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 10 mg, 59% yield | FC1=CC(=C(C=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)OC | C28H24FN7O2
